US05244892
3-Ethoxycarbonyl-2-methylthio-4-oxo-6,7,8-trifluoro-4H-1-benzothiopyran
To a solution of 3.00 g (11.4 mmol) of ethyl 2,3,4,5-tetrafluorobenzoylacetate, 870 mg (11.4 mmol) of carbon disulfide and 9 ml of dried dimethyl sulfoxide were added 2.31 g (22.8 mmol) of triethylamine at room temperature, and the mixture was stirred for 1 hour at room temperature. Then, at room temperature, 3.24 g (22.8 mmol) of methyl iodide were added and the mixture was stirred for 2 hours, which was poured into ice-water. The crystals deposited were collected by filtration and dried to obtain 2.81 g (8.41 mmol) of title compound (yield 74%.

reactant | ethyl 2,3,4,5-tetrafluorobenzoylacetate | 11.4 mmol, 3.00 g | FC1=C(C(=O)CC(=O)OCC)C=C(C(=C1F)F)F | C11H8F4O3
reactant | carbon disulfide | 11.4 mmol, 870 mg | C(=S)=S | CS2
reactant | triethylamine | 22.8 mmol, 2.31 g | C(C)N(CC)CC | C6H15N
reactant | methyl iodide | 22.8 mmol, 3.24 g | CI | CH3I
solvent | dimethyl sulfoxide | 9 ml | CS(=O)C | C2H6OS
product | 3-Ethoxycarbonyl-2-methylthio-4-oxo-6,7,8-trifluoro-4H-1-benzothiopyran | 8.41 mmol, 2.81 g, yield 74% | C(C)OC(=O)C1=C(SC2=C(C1=O)C=C(C(=C2F)F)F)SC | C13H9F3O3S2
